US07470713B2
4-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-3-[5-(4-morpholin-4-yl-phenyl)-1H-imidazol-2-yl]-1H-pyridin-2-one:
2-(4-Iodo-2-methoxy-pyridin-3-yl)-5-(4-morpholin-4-yl-phenyl)-imidazol-1-ol (0.049 g, 0.102 mmol) was reacted as described for the synthesis of 4-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-3-(4-ethyl-5-phenyl-1H-imidazol-2-yl)-1H-pyridin-2-one except that the compound was first treated with titanium(III) chloride LCMS (+ESI, M+H+) m/z 463) and then hydrochloric acid/acetic acid. The title material was obtained (0.007 g, 14%) as a yellow solid. HPLC 85% (220 nm), LCMS (+ESI, M+H+) m/z 492; 1H NMR (400 MHz, methanol-d4) δ (ppm): 3.18 (4H, br t), 3.65 (1H, br dd), 3.74 (1H, br dd), 3.87 (4H, m), 5.02 (1H, m), 6.26 (1H, d, J=7.5 Hz), 7.02 (2H, d, J=8.6 Hz), 7.22-7.56 (7H, m), 7.74 (1H, d, J=7.9 Hz).

reactant | 2-(4-Iodo-2-methoxy-pyridin-3-yl)-5-(4-morpholin-4-yl-phenyl)-imidazol-1-ol | 0.102 mmol, 0.049 g | IC1=C(C(=NC=C1)OC)C=1N(C(=CN1)C1=CC=C(C=C1)N1CCOCC1)O | C19H19IN4O3
reactant | 4-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-3-(4-ethyl-5-phenyl-1H-imidazol-2-yl)-1H-pyridin-2-one | ClC=1C=C(C=CC1)C(CNC1=C(C(NC=C1)=O)C=1NC(=C(N1)CC)C1=CC=CC=C1)O | C24H23ClN4O2
reactant | hydrochloric acid acetic acid | Cl.C(C)(=O)O
catalyst | titanium(III) chloride | [Cl-].[Ti+3].[Cl-].[Cl-]
product | 4-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-3-[5-(4-morpholin-4-yl-phenyl)-1H-imidazol-2-yl]-1H-pyridin-2-one | ClC=1C=C(C=CC1)C(CNC1=C(C(NC=C1)=O)C=1NC(=CN1)C1=CC=C(C=C1)N1CCOCC1)O | C26H26ClN5O3
